US07795267B2
N-[2-(3,6-Dihydropyridin-1(2H)-yl)-1-oxoethyl]-tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide
Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.22 g, 0.75 mmol) was dissolved in tetrahydrofuran (7.5 mL). 2-Chloroacetyl isocyanate (0.10 g, 0.83 mmol) was added thereto, and the mixture was stirred at −20° C. for 1 hour. 1,2,3,6-Tetrahydropyridine (0.27 mL, 3.0 mmol) was added thereto, and the mixture was stirred at room temperature for 24 hours. To the reaction solution was added ethyl acetate, and the resulting mixture was washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1 to ethyl acetate), and then crystallized from ethyl acetate-hexane to obtain the title compound (0.25 g, yield 72%).

reactant | Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.75 mmol, 0.22 g | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | 2-Chloroacetyl isocyanate | 0.83 mmol, 0.10 g | ClCC(=O)N=C=O | C3H2ClNO2
reactant | 1,2,3,6-Tetrahydropyridine | 3.0 mmol, 0.27 mL | N1CCC=CC1 | C5H9N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
product | N-[2-(3,6-Dihydropyridin-1(2H)-yl)-1-oxoethyl]-tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide | 0.25 g, yield 72% | N1(CCC=CC1)CC(=O)NC(=O)N1CC2N(CC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O | C26H28N4O4
